US05786367
10.2 Grams of 6-allyloxy-3,4-dihydro-2(1H)-quinolinone was dissolved in 100 ml of dimethyl-formamide (DMF), then at room temperature, 2.2 g of 60% oily sodium hydride was added little by little thereto, and the reaction mixture was stirred at 25° to 40° C. until generation of hydrogen was stopped. The reaction mixture was cooled to room temperature, 9.1 g of prenyl bromide was added thereto and stirred at room temperature for 8 hours. After the reaction was completed, water was added, and the reaction mixture was extracted with methylene chloride. The methylene chloride extract was washed with water and an aqueous solution saturated with sodium chloride in this order, then thus washed extract was dried with anhydrous magnesium sulfate. Magnesium sulfate was removed by filtration and concentrated. Thus obtained oily residue was subjected to refining and separating by means of a silica gel flush column chromatography by using mixed solvent of ethyl acetate:n-hexane (1:10 to 1:2) as an eluent to obtain 10.2 g (59.7%) of 6-allyloxy-3,4-dihydro-1-prenyl-2-(1H)-quinolinone.

reactant | 6-allyloxy-3,4-dihydro-2(1H)-quinolinone | C(C=C)OC=1C=C2CCC(NC2=CC1)=O | C12H13NO2
reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | prenyl bromide | 9.1 g | C(C=C(C)C)Br | C5H9Br
solvent | dimethyl-formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-allyloxy-3,4-dihydro-1-prenyl-2-(1H)-quinolinone | 10.2 g, 59.7% | C(C=C)OC=1C=C2CCC(N(C2=CC1)CC=C(C)C)=O | C17H21NO2
